* C:\Users\dasha\OneDrive\Personal\Documents\Eclectronics\miniproject1_hysteretic_oscillator.asc
XU2 N004 vdd
XU3 P001 vdd
Vdd P001 0 3.3V
R1 N002 N005 {wc(1580, tola,1)} tol=1
R2 N002 N003 {wc(301, tola,2)} tol=1
C1 N006 0 {wc(10000pF, tola,0)}
C2 N004 0 .1µF
R4 N008 N006 {wc(10000000, tola, 4)} tol=1
R5 N009 N008 {wc(10000000, tola, 5)} tol=1
R7 N010 N009 {wc(402k, tola,6)}
R8 N003 N010 {wc(69.8k, tola,7)}
R6 N007 N003 {wc(31.6, tola, 9)}
XU5 N002 N006 N004 0 N003 level2 Avol=0.316Meg GBW=10Meg Slew=7Meg ilimit=30m rail=0 Vos=0 phimargin=65 en=0 enk=0 in=0 ink=0 Rin=10E12
D1 N007 0 NSCW100
XU1 N001 vdd
R3 N001 Vref {wc(1k, tola, 10)}
R9 Vref 0 {wc(1k, tola, 11)}
XU4 Vref N005 P002 0 N005 level2 Avol=0.316Meg GBW=10Meg Slew=7Meg ilimit=30m rail=0 Vos=0 phimargin=65 en=0 enk=0 in=0 ink=0 Rin=10E12
XU6 P002 vdd
.model D D
.lib C:\Users\dasha\OneDrive\Personal\Documents\LTspiceXVII\lib\cmp\standard.dio
.include engr2420.sub
.tran 10s uic
.func wc(nom,tol,index) if(run==numruns,nom,if(binary(run,index),nom*(1+tol),nom*(1-tol)))
.func binary(run,index) floor(run/(2**index))-2*floor(run/(2**(index+1)))
.param tola=.01
.param numruns=1024
.step param run 0 1024 1
.lib UniversalOpAmp2.lib
.backanno
.end
